US07598384B2
7,7-Dimethyl-5-oxo-2-propylsulfanyl-5,6,7,8-tetrahydroquinoline-3-carbonitrile
In analogy to the procedure described in Example 1, 7,7-dimethyl-5-oxo-2-thioxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile was treated with 1-bromopropane to give the title compound in 91% yield.

reactant | 7,7-dimethyl-5-oxo-2-thioxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile | CC1(CC(C=2C=C(C(NC2C1)=S)C#N)=O)C | C12H12N2OS
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 7,7-Dimethyl-5-oxo-2-propylsulfanyl-5,6,7,8-tetrahydroquinoline-3-carbonitrile | 91% yield | CC1(CC(C=2C=C(C(=NC2C1)SCCC)C#N)=O)C | C15H18N2OS
